US06248772B1
After 1.94 g (5.10 mmol) of ethyl 1-methyl-7-[2-(1H-pyrrol-1-yl)ethoxy]-4-trifluoromethyl-2-indolecarboxylate was dissolved in a mixture of 100 ml of ethanol and 50 ml of tetrahydrofuran, 10 ml of 3.75 N sodium hydroxide was added thereto. The mixture was stirred at room temperature for an hour. After completion of the reaction, the mixture was rendered acidic with 2 N hydrochloric acid and concentrated under reduced pressure. To the concentrate was added 100 ml of water. The mixture was then extracted with ethyl acetate. The extract was washed with water and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. Crystallization of the resulting residue from chloroform/ethyl acetate gave 1.09 g of 1-methyl-7-[2-(1H-pyrrol-1-yl)ethoxy]-4-trifluoromethyl-2-indolecarboxylic acid.

reactant | ethyl 1-methyl-7-[2-(1H-pyrrol-1-yl)ethoxy]-4-trifluoromethyl-2-indolecarboxylate | 5.10 mmol, 1.94 g | CN1C(=CC2=C(C=CC(=C12)OCCN1C=CC=C1)C(F)(F)F)C(=O)OCC | C19H19F3N2O3
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 3.75 N, 10 ml | [OH-].[Na+]
product | 1-methyl-7-[2-(1H-pyrrol-1-yl)ethoxy]-4-trifluoromethyl-2-indolecarboxylic acid | 1.09 g | CN1C(=CC2=C(C=CC(=C12)OCCN1C=CC=C1)C(F)(F)F)C(=O)O | C17H15F3N2O3
